data/core_train_final.csv
"[CH3:15][CH2:14][CH2:13][CH2:12][Sn:11]([CH2:16][CH2:17][CH2:18][CH3:19])([CH2:20][CH2:21][CH2:22][CH3:23])[CH2:10][CH:9][CH2:8][C:7]12[CH2:24][CH:25]([N:5]([CH:6]1[N:30]([C:40]3=[C:41]2[CH:42]=[CH:43][CH:44]=[CH:45]3)[S:31](=[O:38])(=[O:39])[C:32]4=[CH:33][CH:34]=[CH:35][CH:36]=[CH:37]4)[C:2](=[O:1])[O:3][CH3:4])[C:26](=[O:29])[O:27][CH3:28]>>[CH3:15][CH2:14][CH2:13][CH2:12][Sn:11]([CH2:16][CH2:17][CH2:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH3:23].[CH3:28][O:27][C:26](=[O:29])[CH:25]1[CH2:24][C:7]2([CH:6]([N:5]1[C:2](=[O:1])[O:3][CH3:4])[N:30]([C:40]3=[C:41]2[CH:42]=[CH:43][CH:44]=[CH:45]3)[S:31](=[O:38])(=[O:39])[C:32]4=[CH:33][CH:34]=[CH:35][CH:36]=[CH:37]4)[CH2:8][CH:9]=[CH2:10] 9-9,10; 10,11-9,10; 10,11-11",Room Temperature,Propagation,retroaddition
"C1CC[CH:10]C1.[C:21]([I:20])(I)(I)I>>C1CC[CH:10](C1)[I:20].[C:21](I)(I)I 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:2]([CH:3][CH2:4][Cl:5])[Cl:1].[O:8]=[S:7](=[O:10])([Cl:6])[Cl:9]>>[CH2:2]([CH:3]([CH2:4][Cl:5])[Cl:9])[Cl:1].[O:8]=[S:7](=[O:10])[Cl:6] 3-3,9; 7,9-3,9; 7,9-7",Room Temperature,Propagation,abstraction
"CCC(CC)[CH:10]C.[Cl:20][Cl:21]>>CCC(CC)[CH:10](C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:13][C:12]([H:16])([CH2:14][NH2:15])[NH:11][CH2:10][CH2:9][N+:7]([H:8])([H:17])[CH2:6][CH2:5][NH:4][CH2:3][CH2:2][NH2:1].[O-:20][S:19](=[O:18])(=[O:22])[O:21]>>[H:13][C:12]([CH2:14][NH2:15])[NH:11][CH2:10][CH2:9][N+:7]([H:8])([H:17])[CH2:6][CH2:5][NH:4][CH2:3][CH2:2][NH2:1].[H:16][O:21][S:19](=[O:22])(=[O:18])[O-:20] 21-21,16; 12,16-21,16; 12,16-12",Room Temperature,Propagation,abstraction
"[H:20][CH:21](C(F)(F)F)F.[OH:10]>>[H:20][OH:10].[CH:21](C(F)(F)F)F 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC([CH2:10])Br.[Cl:20][Cl:21]>>CCC([CH2:10][Cl:20])Br.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C1=CC=C(C=C1)[N+](=O)[O-].[Br:10]>>[H:20][Br:10].[CH2:21]C1=CC=C(C=C1)[N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])[H:4].[H:5][C:6]([H:7])[H:8]>>[H:5][C:6]([H:7])([H:8])[C:2]([H:1])([H:3])[H:4] 6-2,6;2-2,6",Room Temperature,Termination,recombine
"C=C/C=C/[CH2:10].[Br:20]>>C=C/C=C/[CH2:10][Br:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](C)C(C)(C)C.[Br:20][Br:21]>>CC(C)(C)[C:10](C)(C)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O-][N+:11]([O:10]CCCCO[N+]([O-])=O)=O.[Ar]>>[Ar].[O:10]CCCCO[N+]([O-])=O.[O-][N+:11]=O 10,11-10;10,11-11",Heat,Initiation,homolyze
"[H:11][CH2:10][CH:9]=[CH2:8].[CH2:3]1[CH2:4][C:6](=[O:7])[N:5][C:2]1=[O:1]>>[H:11][N:5]1[C:2](=[O:1])[CH2:3][CH2:4][C:6]1=[O:7].[CH2:8]=[CH:9][CH2:10] 5-5,11; 10,11-5,11; 10,11-10",Room Temperature,Propagation,abstraction
"[H:20][S:21]CC(C(CS)O)O.C1C=CCC([CH:10]1)O>>[H:20][CH:10]1CC=CCC1O.C(C(C(C[S:21])O)O)S 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1[N:10]CN(CN1[N+](=O)[O-])[N+](=O)[O-].[N+:20](=O)[O-]>>C1[N:10](CN(CN1[N+](=O)[O-])[N+](=O)[O-])[N+:20](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:5][C:4](=[C:2]([F:1])[F:3])[H:6].[CH3:7][C:8]([CH3:9])([CH3:15])[O:10][C:11]([CH2:14])([F:12])[F:13]>>[H:5][C:4]([H:6])([CH2:14][C:11]([O:10][C:8]([CH3:7])([CH3:9])[CH3:15])([F:12])[F:13])[C:2]([F:1])[F:3] 2,4-2; 2,4-4,14; 14-4,14",Room Temperature,Propagation,addition
"[H:4][C:3]([CH2:2][CH3:1])([CH2:5][CH3:6])[CH2:7][CH3:8].[Cl:9]>>[H:4][Cl:9].[CH3:1][CH2:2][C:3]([CH2:5][CH3:6])[CH2:7][CH3:8] 9-9,4;3,4-9,4;3,4-3",Room Temperature,Propagation,abstraction
"[CH3:3][C:2](=[CH2:1])[CH3:4].[CH:6]1=[CH:5][CH:10]=[C:9][CH:8]=[CH:7]1>>[CH3:3][C:2]([CH3:4])[CH2:1][C:9]1=[CH:10][CH:5]=[CH:6][CH:7]=[CH:8]1 9-9,1;1,2-1,9;1,2-2",Room Temperature,Propagation,addition
"CC(C)[CH:10]CC(C)(C)C.[Cl:20][Cl:21]>>CC(C)[CH:10](CC(C)(C)C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:40][CH2:39][O:38][C:37](=[O:41])[CH:36]([CH2:35][C:34](=[C:33]=[C:32]1[CH:27]([CH2:26][C:24]2([CH:23]1[CH:22][CH2:21][C:19]([CH2:48]2)([CH3:18])[CH3:20])[CH3:25])[O:28][C:29](=[O:31])[CH3:30])[CH3:47])[C:42](=[O:46])[O:43][CH2:44][CH3:45].[CH3:11][CH2:10][O:9][C:8](=[O:12])[CH:7]([C:13](=[O:17])[O:14][CH2:15][CH3:16])[S:6][C:2](=[S:1])[O:3][CH2:4][CH3:5]>>[CH3:40][CH2:39][O:38][C:37](=[O:41])[CH:36]([CH2:35][C:34](=[C:33]=[C:32]1[CH:27]([CH2:26][C:24]2([CH:23]1[CH:22]([CH2:21][C:19]([CH2:48]2)([CH3:18])[CH3:20])[S:1][C:2]([O:3][CH2:4][CH3:5])[S:6][CH:7]([C:8](=[O:12])[O:9][CH2:10][CH3:11])[C:13](=[O:17])[O:14][CH2:15][CH3:16])[CH3:25])[O:28][C:29](=[O:31])[CH3:30])[CH3:47])[C:42](=[O:46])[O:43][CH2:44][CH3:45] 22-22,1; 1,2-1,22; 1,2-2",Room Temperature,Propagation,addition
"[H:8][Br:7].[CH3:5][CH2:4][C:3]([CH3:6])[CH:2]=[CH2:1].[Br:9]>>[H:8][Br:7].[CH3:5][CH2:4][C:3]([CH3:6])([CH:2]=[CH2:1])[Br:9] 9-3,9;3-3,9",Room Temperature,Termination,recombine
